US06436980B1
(C) N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(5,6-dimethyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropyl]valeramide
(1R)-1-[(RS)-(5,6-dimethyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine (157 mg) is coupled with N,N′-bis-Boc-D-ornithine to afford the title compound (343 mg) as a white solid: 1H NMR (400 MHz, CDCl3, 3:2 mixture of diastereomers) δ 1.39-1.43 (bd, 19H), 1.43-1.64 (m, 4H), 1.83 (m, 1H), 2.38 (m, 6H), 2.61-3.21 (m, 4H), 4.08 (m, 1H), 4.59 (m, 1H), 5.02 (s, 1H), 5.18 (bd, 0.6H, NH), 5.28 (bd, 0.4H, NH), 7.12-7.35 (m, 6H), 7.41 (s, 0.4H), and 7.46 (s, 0.6H).

reactant | (1R)-1-[(RS)-(5,6-dimethyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine | 157 mg | CC=1C(=CC2=C(N=C(O2)C([C@@H](CCC2=CC=CC=C2)N)O)C1)C | C19H22N2O2
reactant | N,N′-bis-Boc-D-ornithine | C(=O)(OC(C)(C)C)N[C@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C15H28N2O6
product | N,N′-Bis-Boc-(2R)-2,5-Diamino-N-[(1R)-1-[(RS)-(5,6-dimethyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropyl]valeramide | 343 mg | C(=O)(OC(C)(C)C)N(C([C@@H](CCCNC(=O)OC(C)(C)C)N)=O)[C@H](CCC1=CC=CC=C1)C(O)C=1OC2=C(N1)C=C(C(=C2)C)C | C34H48N4O7
